US04404137
7-Chloro-2,4,5,10-tetrahydro-2-methylpyrazolo[3,4-b][1,5]benzodiazepin-4-one
4-Amino-7-chloro-2,10-dihydro-2-methylpyrazolo[3,4-b][1,5]benzodiazepine hydrochloride (11.3 g) and potassium carbonate (16.8 g) were heated under reflux in a mixture of ethanol (200 ml) and water (20 ml) for 48 hours. Water (300 ml) was added and the solution cooled. The precipitate was crystallised from acetic acid to give the title compound m.p. >260° C.

reactant | 4-Amino-7-chloro-2,10-dihydro-2-methylpyrazolo[3,4-b][1,5]benzodiazepine hydrochloride | 11.3 g | Cl.NC=1C=2C(NC3=C(N1)C=C(C=C3)Cl)=NN(C2)C
reactant | potassium carbonate | 16.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | Water | 300 ml | O | H2O
product | 7-Chloro-2,4,5,10-tetrahydro-2-methylpyrazolo[3,4-b][1,5]benzodiazepin-4-one | ClC=1C=CC2=C(NC(C=3C(N2)=NN(C3)C)=O)C1 | C11H9ClN4O
